Transistor-level TIA private fixture
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.options method=gear maxord=2 reltol=1e-3 abstol=1e-12 vntol=1e-6 itl4=500 rshunt=1e12
R_TB_BUF_LOAD outp outn 100
* IHP SG13G2 25-Gbaud differential optical-receiver front end
*
* Public nodes: vcc mc mgc oa inp inn finalp finaln gc agc
*               bufinp bufinn outp outn pkdinp pkdinn detp detn

*=====================================================================
* Bias
*=====================================================================
Rbb1 vcc cbias 540
Rbb2 cbias 0 496
Cbb cbias 0 80p

Rth1 vcc vth 24.5k
Xq_th vth vth 0 0 npn13G2 Nx=1
Cth vth 0 6p

Rcm1 tiaop vgab 8k
Rcm2 tiaon vgab 8k
Ccm vgab 0 4p

*=====================================================================
* Input TIA + DC-overload cancellation (positive)
*=====================================================================
Xqcb_p ncp cbias inp 0 npn13G2 Nx=8
Llp ncp nlp 0.50n
Rlp ncp nlp 175
Rcp nlp vcc 294
Xist_p inp oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=5
Xmoc_p inp gdcp 0 0 sg13_hv_nmos w=6.0u l=0.45u ng=1 m=2
Xqef_p vcc ncp tiaop 0 npn13G2 Nx=4
Xief_p tiaop oa 0 0 sg13_hv_nmos w=8.0u l=0.45u ng=1 m=3

Rsnp inp vsnp 180k
Csnp vsnp 0 60p
Xotp_t otp_s oa 0 0 sg13_hv_nmos w=6.0u l=0.80u ng=1 m=1
Xotp_hi otp_x vsnp otp_s 0 sg13_hv_nmos w=10u l=0.80u ng=1 m=1
Xotp_lo gdcp vth otp_s 0 sg13_hv_nmos w=10u l=0.80u ng=1 m=1
Xotp_ld otp_x otp_x vcc vcc sg13_hv_pmos w=6.0u l=2.00u ng=1 m=1
Xotp_lm gdcp otp_x vcc vcc sg13_hv_pmos w=6.0u l=2.00u ng=1 m=1
Rpd_p gdcp 0 15k
Cintp gdcp 0 50n

*=====================================================================
* Input TIA + DC-overload cancellation (negative)
*=====================================================================
Xqcb_n ncn cbias inn 0 npn13G2 Nx=8
Lln ncn nln 0.50n
Rln ncn nln 175
Rcn nln vcc 294
Xist_n inn oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=5
Xmoc_n inn gdcn 0 0 sg13_hv_nmos w=6.0u l=0.45u ng=1 m=2
Xqef_n vcc ncn tiaon 0 npn13G2 Nx=4
Xief_n tiaon oa 0 0 sg13_hv_nmos w=8.0u l=0.45u ng=1 m=3

Rsnn inn vsnn 180k
Csnn vsnn 0 60p
Xotn_t otn_s oa 0 0 sg13_hv_nmos w=6.0u l=0.80u ng=1 m=1
Xotn_hi otn_x vsnn otn_s 0 sg13_hv_nmos w=10u l=0.80u ng=1 m=1
Xotn_lo gdcn vth otn_s 0 sg13_hv_nmos w=10u l=0.80u ng=1 m=1
Xotn_ld otn_x otn_x vcc vcc sg13_hv_pmos w=6.0u l=2.00u ng=1 m=1
Xotn_lm gdcn otn_x vcc vcc sg13_hv_pmos w=6.0u l=2.00u ng=1 m=1
Rpd_n gdcn 0 15k
Cintn gdcn 0 50n

*=====================================================================
* Gain-controlled RF stage 1
*=====================================================================
Cc1p tiaop v1bp 2.2n
Cc1n tiaon v1bn 2.2n
Rb1p vgab v1bp 8k
Rb1n vgab v1bn 8k

Xq1p v1cp v1bp v1ep 0 npn13G2 Nx=6
Xq1n v1cn v1bn v1en 0 npn13G2 Nx=6
Re1p v1ep v1t 14
Re1n v1en v1t 14
Xit1f v1t oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Xit1v v1t gc 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=16
Xdeg1p v1ep gc v1t 0 sg13_hv_nmos w=20u l=0.45u ng=1 m=8
Xdeg1n v1en gc v1t 0 sg13_hv_nmos w=20u l=0.45u ng=1 m=8
Cv1t v1t 0 8p
L1p v1cp n1p 0.14n
L1n v1cn n1n 0.14n
Rd1p v1cp n1p 85
Rd1n v1cn n1n 85
Rc1p n1p vcc 55
Rc1n n1n vcc 55
Xgc1p vcc gc v1cp vcc sg13_hv_pmos w=16u l=0.40u ng=1 m=1
Xgc1n vcc gc v1cn vcc sg13_hv_pmos w=16u l=0.40u ng=1 m=1
Xqef1p vcc v1cp pkd_int_p 0 npn13G2 Nx=4
Xqef1n vcc v1cn pkd_int_n 0 npn13G2 Nx=4
Xief1p pkd_int_p oa 0 0 sg13_hv_nmos w=8.0u l=0.45u ng=1 m=3
Xief1n pkd_int_n oa 0 0 sg13_hv_nmos w=8.0u l=0.45u ng=1 m=3
Rpk_p pkd_int_p pkdinp 15
Rpk_n pkd_int_n pkdinn 15
Lpk_p pkd_int_p lpkp 0.28n
Rlpk_p lpkp pkdinp 18
Lpk_n pkd_int_n lpkn 0.28n
Rlpk_n lpkn pkdinn 18

*=====================================================================
* Gain-controlled RF stage 2
*=====================================================================
Xq2p v2cp pkdinp v2ep 0 npn13G2 Nx=6
Xq2n v2cn pkdinn v2en 0 npn13G2 Nx=6
Re2p v2ep v2t 12
Re2n v2en v2t 12
Xit2f v2t oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Xit2v v2t gc 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=14
Xdeg2p v2ep gc v2t 0 sg13_hv_nmos w=20u l=0.45u ng=1 m=6
Xdeg2n v2en gc v2t 0 sg13_hv_nmos w=20u l=0.45u ng=1 m=6
Cv2t v2t 0 8p
L2p v2cp n2p 0.12n
L2n v2cn n2n 0.12n
Rd2p v2cp n2p 70
Rd2n v2cn n2n 70
Rc2p n2p vcc 47
Rc2n n2n vcc 47
Xgc2p vcc gc v2cp vcc sg13_hv_pmos w=14u l=0.40u ng=1 m=1
Xgc2n vcc gc v2cn vcc sg13_hv_pmos w=14u l=0.40u ng=1 m=1
Xqef2p vcc v2cp buf_int_p 0 npn13G2 Nx=5
Xqef2n vcc v2cn buf_int_n 0 npn13G2 Nx=5
Xief2p buf_int_p oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=4
Xief2n buf_int_n oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=4
Rbf_p buf_int_p bufinp 10
Rbf_n buf_int_n bufinn 10
Lbf_p buf_int_p lbfp 0.22n
Rlbf_p lbfp bufinp 15
Lbf_n buf_int_n lbfn 0.22n
Rlbf_n lbfn bufinn 15

*=====================================================================
* Differential output buffer
*=====================================================================
Xqbp outp bufinp bep 0 npn13G2 Nx=8
Xqbn outn bufinn ben 0 npn13G2 Nx=8
Reb_p bep bet 11
Reb_n ben bet 11
Xitb bet oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=41
Cbet bet 0 8p
Rbp outp vcc 50
Rbn outn vcc 50
Rfo_p finalp outp 0.05
Rfo_n finaln outn 0.05

*=====================================================================
* Peak detector (EF + expanding CE pair)
*=====================================================================
Xqpd_p vcc pkdinp pde_p 0 npn13G2 Nx=1
Xqpd_n vcc pkdinn pde_n 0 npn13G2 Nx=1
Xpde_p pde_p oa 0 0 sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1
Xpde_n pde_n oa 0 0 sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1
Xqd_p detp pde_p de_p 0 npn13G2 Nx=1
Xqd_n detn pde_n de_n 0 npn13G2 Nx=1
Red_p de_p det 25
Red_n de_n det 25
Xitd det oa 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Rd_p detp vcc 1100
Rd_n detn vcc 1100

*=====================================================================
* AGC amplifier (~15 V/V)
*=====================================================================
Xqag_p ag_cp detp ag_ep 0 npn13G2 Nx=2
Xqag_n agc detn ag_en 0 npn13G2 Nx=2
Reag_p ag_ep ag_t 0.5
Reag_n ag_en ag_t 0.5
Xitag ag_t oa 0 0 sg13_hv_nmos w=8.0u l=0.45u ng=1 m=2
Rcag_p vcc ag_cp 2830
Rcag_n vcc agc 2830
Cagc agc 0 40f

*=====================================================================
* Manual / automatic gain selection
*=====================================================================
Xinv_p mcbar mc vcc vcc sg13_hv_pmos w=4.0u l=0.40u ng=1 m=1
Xinv_n mcbar mc 0 0 sg13_hv_nmos w=2.0u l=0.45u ng=1 m=1
Xtg_mp gc mc mgc vcc sg13_hv_pmos w=20u l=0.40u ng=1 m=4
Xtg_mn gc mcbar mgc 0 sg13_hv_nmos w=20u l=0.45u ng=1 m=4
Xtg_ap gc mcbar agc vcc sg13_hv_pmos w=20u l=0.40u ng=1 m=4
Xtg_an gc mc agc 0 sg13_hv_nmos w=20u l=0.45u ng=1 m=4
Cgc gc 0 30f

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0
I_TB_N inn 0 DC 0
V_TB_DETP detp 0 2.839598
V_TB_DETN detn 0 2.789598

.control
op
print v(agc)
quit
.endc
.end
